US08278345B2
Compound 446: 1-(1H-Benzoimidazol-5-yl)-4-cyclopropanecarbonyl-3-hydroxy-5-(8-hydroxy-quinolin-2-yl)-1,5-dihydro-pyrrol-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 8-Hydroxy-quinoline-2-carbaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 3 4-Cyclopropyl-2,4-dioxo-butyric acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 8-Hydroxy-quinoline-2-carbaldehyde | 1 mmol | OC=1C=CC=C2C=CC(=NC12)C=O | C10H7NO2
reactant | 4-Cyclopropyl-2,4-dioxo-butyric acid ethyl ester | 1 mmol | C(C)OC(C(CC(=O)C1CC1)=O)=O | C9H12O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(1H-Benzoimidazol-5-yl)-4-cyclopropanecarbonyl-3-hydroxy-5-(8-hydroxy-quinolin-2-yl)-1,5-dihydro-pyrrol-2-one | N1C=NC2=C1C=CC(=C2)N2C(C(=C(C2C2=NC1=C(C=CC=C1C=C2)O)C(=O)C2CC2)O)=O | C24H18N4O4
